US06498254B1
Preparation of 2-[[(3-methyl-4-nitrophenyl)methyl]sulfonyl]pyridine-N-oxide
To a mixture of 9.5 g of 2-[[(3-methyl-4-nitrophenyl)methyl]sulfinyl]-pyridine-1-oxide in 50 ml of acetic acid was added, dropwise with stirring at room temperature, 9.17 g of 40% peracetic acid in acetic acid. After addition, a short period of heating was required to complete the reaction. Excess peracetic acid was then destroyed by the addition of sodium bisulfite and this was followed by the addition of 200 ml of water and potassium carbonate to neutralize the acidic solution. The white solid was filtered off and washed with water. Yield 9.7 g, melting point of 160-162° C. Infrared and NMR spectra supported the proposed structure.

reactant | 2-[[(3-methyl-4-nitrophenyl)methyl]sulfinyl]-pyridine-1-oxide | 9.5 g | CC=1C=C(C=CC1[N+](=O)[O-])CS(=O)C1=[N+](C=CC=C1)[O-] | C13H12N2O4S
reactant | peracetic acid | 9.17 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-[[(3-methyl-4-nitrophenyl)methyl]sulfonyl]pyridine-N-oxide | CC=1C=C(C=CC1[N+](=O)[O-])CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C13H12N2O5S
